US05965589
A mixture of 5-[3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2,4-thiazolidinedione (0.37 g), palladium-carbon (5%, 0.74 g) and tetrahydrofuran (20 ml) was subjected to catalytic hydrogenation at 1 atm and room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give crystals. The crystals were recrystallized from ethyl acetate-hexane to give 5-[3-[3-methoxy-4-(2-phenethyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-thiazolidinedione (0.20 g, 54%). Colorless prisms, mp: 126-127° C.

reactant | 5-[3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2,4-thiazolidinedione | 0.37 g | COC=1C=C(C=CC1OCC=1N=C(OC1)\C=C\C1=CC=CC=C1)CCCC1C(NC(S1)=O)=O | C25H24N2O5S
catalyst | palladium-carbon | 0.74 g | [C].[Pd]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-[3-[3-methoxy-4-(2-phenethyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-thiazolidinedione | 0.20 g, 54% | COC=1C=C(C=CC1OCC=1N=C(OC1)CCC1=CC=CC=C1)CCCC1C(NC(S1)=O)=O | C25H26N2O5S
